US03956335
A solution of 9 g of 1-(o-methoxy-phenoxy)-2,3-epoxy-propane and 9.15 g of 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine in 7 ml of abs. ethanol is heated for 5 hours to 95°C and then evaporated in vacuo. The residue is recrystallised from ethyl acetate/petroleum ether to yield the 1-[3-(o-methoxyphenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)-piperidine, which melts at 130°-133°C.

reactant | 1-(o-methoxy-phenoxy)-2,3-epoxy-propane | 9 g | COC1=C(OCC2CO2)C=CC=C1 | C10H12O3
reactant | 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine | 9.15 g | N1CCC(CC1)N1C(NCCC1)=O | C9H17N3O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-(o-methoxyphenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)-piperidine | COC1=C(OCC(CN2CCC(CC2)N2C(NCCC2)=O)O)C=CC=C1 | C19H29N3O4
